US07713994B2
To a solution of toluene-4-sulfonic acid 2-[methyl-(4-nitro-phenyl)-amino]-ethyl ester TFA salt (74 mg, 0.21 mmol) in toluene (1 mL) is added triethylamine (50 μL) and morpholine (55 μL, 0.63 mmol). The mixture is shaken in 70° C. block shaker overnight. The reaction mixture is concentrated and purified by reverse phase high performance liquid chromatography to give methyl-(2-morpholin-4-yl-ethyl)-(4-nitro-phenyl)-amine as a di-TFA salt (80 mg, 77%).

reactant | toluene-4-sulfonic acid 2-[methyl-(4-nitro-phenyl)-amino]-ethyl ester TFA salt | 0.21 mmol, 74 mg | OC(=O)C(F)(F)F.CN(CCOS(=O)(=O)C1=CC=C(C=C1)C)C1=CC=C(C=C1)[N+](=O)[O-]
reactant | triethylamine | 50 μL | C(C)N(CC)CC | C6H15N
reactant | morpholine | 0.63 mmol, 55 μL | N1CCOCC1 | C4H9NO
solvent | toluene | 1 mL | C1(=CC=CC=C1)C | C7H8
product | methyl-(2-morpholin-4-yl-ethyl)-(4-nitro-phenyl)-amine | CN(C1=CC=C(C=C1)[N+](=O)[O-])CCN1CCOCC1 | C13H19N3O3
